US07838499B2
Preparation of (2R,3R,4R,5S,6S)-2-(acetoxymethyl)-6-(4-chloro-3-(4-(1-(methoxymethyl)cyclopropyl)benzyl)phenyl)tetrahydro-2H-pyran-3,4,5-triyl triacetate (Intermediate BD)
To a cooled (0° C.) solution of ZnEt2 (0.16 mL, 0.16 mmol) in CH2Cl2 (0.4 mL) was added a solution of TFA (12 μL, 0.16 mmol) in CH2Cl2 (0.2 mL). After stirring for 20 min, a solution of CH2I2 (43 mg, 0.16 mmol) in CH2Cl2 (0.2 mL) was added. After stirring for an additional 20 min, a solution of (2R,3R,4R,5S,6S)-2-(acetoxymethyl)-6-(4-chloro-3-(4-(3-methoxyprop-1-en-2-yl)benzyl)phenyl)tetrahydro-2H-pyran-3,4,5-triyl triacetate (intermediate BC) (32 mg, 0.053 mmol) in CH2Cl2 (0.4 mL) was added. The mixture was stirred overnight prior to quenching with a saturated solution of NaHCO3. The mixture was extracted 3× with CH2Cl2, and the organic portion was washed with brine prior to drying over Na2SO4. Concentration of the solution gave crude intermediate BC (25 mg).

reactant | ZnEt2 | 0.16 mmol, 0.16 mL | [Zn](CC)CC
reactant | TFA | 0.16 mmol, 12 μL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | CH2I2 | 0.16 mmol, 43 mg | C(I)I | CH2I2
reactant | (2R,3R,4R,5S,6S)-2-(acetoxymethyl)-6-(4-chloro-3-(4-(3-methoxyprop-1-en-2-yl)benzyl)phenyl)tetrahydro-2H-pyran-3,4,5-triyl triacetate | 0.053 mmol, 32 mg | C(C)(=O)O[C@@H]1[C@H](O[C@H]([C@@H]([C@H]1OC(C)=O)OC(C)=O)C1=CC(=C(C=C1)Cl)CC1=CC=C(C=C1)C(=C)COC)COC(C)=O | C31H35ClO10
solvent | CH2Cl2 | 0.4 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 0.2 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 0.2 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 0.4 mL | C(Cl)Cl | CH2Cl2
product | (2R,3R,4R,5S,6S)-2-(acetoxymethyl)-6-(4-chloro-3-(4-(1-(methoxymethyl)cyclopropyl)benzyl)phenyl)tetrahydro-2H-pyran-3,4,5-triyl triacetate | C(C)(=O)O[C@@H]1[C@H](O[C@H]([C@@H]([C@H]1OC(C)=O)OC(C)=O)C1=CC(=C(C=C1)Cl)CC1=CC=C(C=C1)C1(CC1)COC)COC(C)=O | C32H37ClO10
